US08623577B2
Synthesis of N,N-di-p-tolyl-N′,N′-bis(4′-hydroxybiphenyl-4-yl)benzidine
In a reaction vessel equipped with an agitator, thermometer and a cooling pipe, 2.73 g of N,N-di-p-tolyl-N′,N′-bis(4′-methoxybiphenyl-4-yl)benzidine and 100 mL of methylene chloride were placed. While the vessel was being cooled with ice, 10 mL of a 1M methylene chloride solution of boron tribromide was delivered by drops into the vessel, and furthermore the mixture was reacted at the same temperature for three hours. Then, the reacted solution was poured into ice water and extracted with methylene chloride. The organic layer was washed with water and separated, and it was then dried with magnesium sulfate and subjected to vacuum concentration. The residue was purified with a silica gel chromatography with a mixture of n-hexane and ethyl acetate as a solvent, where the ratio of n-hexane to ethyl acetate in the mixture was one to one. Thus, the objective product was obtained with the yield of 2.53 g.

reactant | N,N-di-p-tolyl-N′,N′-bis(4′-methoxybiphenyl-4-yl)benzidine | 2.73 g | C1(=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(N(C2=CC=C(C=C2)C2=CC=C(C=C2)OC)C2=CC=C(C=C2)C2=CC=C(C=C2)OC)C=C1)C1=CC=C(C=C1)C)C | C52H44N2O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 1M | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | N,N-di-p-tolyl-N′,N′-bis(4′-hydroxybiphenyl-4-yl)benzidine | C1(=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(N(C2=CC=C(C=C2)C2=CC=C(C=C2)O)C2=CC=C(C=C2)C2=CC=C(C=C2)O)C=C1)C1=CC=C(C=C1)C)C | C50H40N2O2
